US08686024B2
Synthesis of 1-benzylindolin-5-yl 4-methoxybenzylcarbamate
To a solution of 1-benzylindolin-5-ol (15.0 mg, 66.6 μmol) in 0.50 mL of dry dichloromethane was added triphosgene (6.9 mg, 23 μmol) and N,N-diisopropylethylamine (14 μL, 82 μmol), successively. After the reaction mixture was stirred at room temperature for 10 min, 4-methoxybenzylamine (17 μL, 0.13 mmol) was added. After the reaction mixture was stirred at the same temperature for 30 min, the reaction mixture was diluted with hexane (1 mL) and 1 M HCl (2 mL). The organic layer was purified directly by silica gel column chromatography (eluting with hexane/ethyl acetate or chloroform/methanol) to obtain the title compound as a white solid (6.1 mg, 24%).

reactant | 1-benzylindolin-5-ol | 66.6 μmol, 15.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | triphosgene | 23 μmol, 6.9 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N,N-diisopropylethylamine | 82 μmol, 14 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-methoxybenzylamine | 0.13 mmol, 17 μL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | dichloromethane | 0.50 mL | ClCCl | CH2Cl2
solvent | hexane | 1 mL | CCCCCC | C6H14
solvent | HCl | 1 M, 2 mL | Cl | ClH
product | 1-benzylindolin-5-yl 4-methoxybenzylcarbamate | 6.1 mg, 24% | COC1=CC=C(CNC(OC=2C=C3CCN(C3=CC2)CC2=CC=CC=C2)=O)C=C1 | C24H24N2O3
